* ==========================================================================
* @part: TC4420 TC4427
* @family: drivers
* @source: Microchip
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/mc.lib
* @retrieved: 2026-09-24
* @licence: condition: "The software supplied herewith by Microchip Technology Incorporated (the 'Company') is intended and supplied to you, the Company's customer, for use soley and exclusively on Microchip products."; notice: "under applicable copyright laws. All rights are reserved. Any use in"
* @added-by: garv.singh
* @pins: TC4420_I2D_B: 1 2 3 4
* @pins: TC4427_I2D_A: 1 2 3 4
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- vendor notice (copied intact) ----
*                    | | | | |
*                    | | | | Output 2
*                    | | | Negative Supply
*                    | | Positive Supply
*                    | Output 1
*                    Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following MOSFET drivers are covered by this model:
*      1.5A Inverting Dual Open Drain Driver - TC4404
*
* Polarity: Inverting
*
* Date of model creation: 8/26/2008
* Level of Model Creator: G
*
* Revision History:
*      10/29/08 RAW Initial model creation
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: propgation delays, rise times, fall times, max sink/source current,
*            input thresholds, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, output current, output 
*            resistance,....,etc.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*       
*       
*
* Input Impedance/Clamp
* Input Impedance/Clamp

.SUBCKT TC4420_I2D_B 1 2 3 4
*                    | | | | 
*                    | | | Negative Supply
*                    | | Positive Supply
*                    | Output
*                    Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following MOSFET drivers are covered by this model:
*      Rev A Testing - TC4420
*
* Polarity: Non Inverting
*
* Date of model creation: 1/26/2007
* Level of Model Creator: A
*
* Revision History:
*      12/24/07 HNV Created by edit of TC4429_I2D_A 
*       2/18/08 HNV Updated quiescent current
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: propgation delays, rise times, fall times, max sink/source current,
*            input thresholds, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, output current, output 
*            resistance,....,etc.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*      Rise and fall times are a little too fast over 16V Vdd
*      Use data from datasheet for more accurate estimates. 
*
* Input Impedance/Clamp
R1  4    1    2MEG
C1  4    1    38P
G3  3    1    TABLE { V(3, 1) } ((-770M,-1.00)(-700M,-10.0M)(-630M,-10N)(0,0)(20.0,10N))
G4  1    4    TABLE { V(1, 4) } ((-5.94,-1.00)(-5.4,-10.0M)(-4.86,-10N)(0,0)(20.0,10N))
* Threshold
G11 30 0 TABLE {V(1,11)}((-1m,10n)(0,0)(0.88,-.1)(1.5,-0.9)(2.2,-1)(4,-1.1)(6,-1.3))
G12 30 0 TABLE {V(1,12)}((-6,1.3)(-4,1.1)(-2.3,1)(-1.8,.9)(-0.7,.1)(0,0)(1,-10n))
R21 0 11 1 TC .3m 1.4u  
G21 0 11 TABLE { V(3, 4) } 
+ ((0,0)(4,1.34)(5,1.43)(6,1.5)(7,1.5)(10,1.48)(12,1.48)(18,1.5))
R22 0 12  1 TC .1m -0.8U
G22 0 12 TABLE { V(3, 4) } 
+ ((0,0)(4,1.16)(6,1.24)(7,1.24)(9,1.23)(11,1.23)(18,1.25))
C30 30   0    1n  
* HL Circuit
G31 0    31   TABLE { V(3, 4) } 
+((0,35)(5,20.5)(6,19)(8,16.6)(12,14.8)(15,15.1)(17,15.3)(18,15.1))
R31 31   0    1 TC 3.2M  
G33 0    30   TABLE { V(31, 30) } ( (-1m,-10)(0,0)(1m,5n)(1,10n) )
S31 31   30 31 30 SS31
* LH Circuit
G32 32   0    TABLE { V(3, 4) } 
+((0,71)(5,45)(6,38)(8.5,32)(11.5,31)(17,31.7)(18,31))
R32 0    32   1 TC 2.9M 5U
G34 30   0    TABLE { V(30, 32) } ( (-1m,-10)(0,0)(1m,5n)(1,10n) )
R30 32   30   1MEG  
* DRIVE
G51  0 50 TABLE {V(30, 0)}
+((-5,-1n)(-3,-1n)(0,0)(4,10)(15,6)(22,7))
G52 50  0 TABLE {V(0, 30)}
+((-5,-1n)(-3,-1n)(0,0)(2,6)(13,4.5)(15,2.7)(30,2.7))
R53  0 50 1 TC -5m 25u
G50 51 60 VALUE {V(50,0)*0.96/(-0.04+(18/V(3,4))^1.1)+1m}
R51 51  0 1
G53  3  0 TABLE {V(51,0)} ((-10,10)(0,0)(1,1n))
G54  0  4 TABLE {V(0,51)} ((-10,10)(0,0)(1,1n))
R60 0    60   100MEG  
H67 0    69   V67 1
V67 60   59   0V
C59 0    59   3N
C60 561    60   2N
R59 59   2   0.5
L59 59   2   5N
* Shoot-through adjustment
VC60        56 0 0V
RC60        56 561 1m
H60         58 0 VC60 56
G_G60P       0 3 TABLE { V(58, 0) } 
+ ((-1,-1u)(0,0)(16,.7)(250,5))
G_G60N       4 0 TABLE { V(0, 58) } 
+ ((-1,-1u)(0,0)(16,.7)(250,5))
* Source Output
E67 67   0    TABLE {V(69, 0)}((-10,-10)(0,0)(10,50))
G63 0   63   POLY(1) 3 4 6 -280M 3M
R63 0    63   1 TC 3.3M,-2U
E61 61   65   VALUE {V(67,0)*V(63,0)}
V63 65   3    10.0M
G61 61   60   TABLE {V(61,60)}((-12.0M,-200.0)(-11.0M,-60)(-10.0M,-6)(0,0)(.1,5N)(50,10N))
* Sink Output
E68 68   0    TABLE {V(69,0)}((-50,-10)(0,0)(10,10))
G64 0   64   POLY(1) 3 4 3.45 -180M 2.7M
R64 0    64   1 TC 3.3M 6U
E62 62   66   VALUE {V(68,0)*V(64,0)}
V64 66   4    10.0M
G62 60   62   TABLE {V(60,62)}((-12.0M,-200.0)(-11.0M,-60)(-10.0M,-6)(0,0)(.1,5N)(10,10N))
* Bias Current
G55 0    55   TABLE {V(3,4)}((0,0)(4,296U)(6,338U)(13,410U)(17,500U)(20,750U))
G56 3    4    55 0 1
R55 55   0    1 TC  5.7M 19U
G57 0    57   TABLE {V(3,4)}((0,0)(4.4,48U)(6,54U)(7,64U)(13,68U)(16,70U)(20,78U))
G58 3    4    57 0 1
R57 57   0    1 TC  4.6M 49U
S59 55   0    1 0 SS59
* Models
.MODEL SS59 VSWITCH Roff=100MEG Ron=1m Voff=1.5V Von=1.2V
.MODEL SS31 VSWITCH Roff=100MEG Ron=800 Voff=0.2V Von=0.1V
.ENDS TC4420_I2D_B

* ---- vendor notice (copied intact) ----
*                    | | | | 
*                    | | | Negative Supply
*                    | | Positive Supply
*                    | Output
*                    Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following MOSFET drivers are covered by this model:
*      1.5A Inverting Driver - TC4426
*
* Polarity: Inverting
*
* Date of model creation: 11/12/2008
* Level of Model Creator: G
*
* Revision History:
*      11/12/08 RAW Initial model creation
*      11/18/08 RAW Improved Rise and Falls times
*       
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: propgation delays, rise times, fall times, max sink/source current,
*            input thresholds, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, output current, output 
*            resistance,....,etc.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*       
*       
*
* Input Impedance/Clamp

.SUBCKT TC4427_I2D_A 1 2 3 4
*                    | | | | 
*                    | | | Negative Supply
*                    | | Positive Supply
*                    | Output
*                    Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following MOSFET drivers are covered by this model:
*      1.5A Inverting Driver - TC4426
*
* Polarity: Inverting
*
* Date of model creation: 11/12/2008
* Level of Model Creator: G
*
* Revision History:
*      11/20/08 RAW Initial model creation
*       
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: propgation delays, rise times, fall times, max sink/source current,
*            input thresholds, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, output current, output 
*            resistance,....,etc.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*       
*       
*
* Input Impedance/Clamp
R1  4    1    100MEG
C1  4    1    12.0P
G3  3    1    TABLE { V(3, 1) } ((-770M,-1.00)(-700M,-10.0M)(-630M,-1.00N)(0,0)(20.0,1.00N))
G4  1    4    TABLE { V(1, 4) } ((-5.94,-1.00)(-5.4,-10.0M)(-4.86,-1.00N)(0,0)(20.0,1.00N))
* Threshold
G11 0    30   TABLE { V(1, 11) } ( (-1m,10n)(0,0)(0.78,-.1)(1.25,-1)(2,-1) )
G12 0    30   TABLE {V(1,12)} ( (-2,1)(-1.2,1)(-0.6,.1)(0,0)(1,-10n))
G21 0    11   TABLE { V(3, 4) } ((0,1.35)(4.00,1.35)(6.00,1.5)(10.0,1.48)(13.0,1.49)(16.0,1.5))
G22 0    12   TABLE { V(3, 4) } ((0,1.35)(4.00,1.16)(6.00,1.25)(10.0,1.24)(13.0,1.24)(16.0,1.25))
R21 0    11   1 TC 504U  2.33U
R22 0    12   1 TC 231U  -103N
C30 30   0    1n  
* HL Circuit
G31 0    31   TABLE { V(3, 4) } ((0,146)(4.0,63.3)(6.00,43.4)(10.0,34.8)(14.0,32.6)(18.0,28.4))
R31 31   0    1 TC 1.93M  -1.89U
G33 0    30   TABLE { V(31, 30) } ( (-1M,-10)(0,0)(1,10N) )
S31 31   30 31 30 SS31
* LH Circuit
G32 32   0    TABLE { V(3, 4) } ((0,104)(4.0,36.8)(6.00,19.7)(10.0,12.1)(14.0,10.2)(18.0,9.5))
R32 0    32   1 TC 2.26M  2.88U
G34 30   0    TABLE { V(30, 32) } ( (-1M,-10)(0,0)(1,10N) )
R30 32   30   1MEG  
* DRIVE
G51 0    50   TABLE { V(0, 30) } ( (-5,-1U)(-3,-1U)(0,0)(6,1.00)(18,1.020) )
G52 50   0    TABLE { V(30,0) } ( (-5,-1U)(-3,-1U)(0,0)(6,1.20)(18,1.220) )
R53 0    50   1  
G50 51   60   VALUE {V(50,0)*300M/(-700M+18/(V(3,4) + 1M))}
R51 51    0   1  
G53  3    0   TABLE {V(51,0)} ((-100,100)(0,0)(1,1n))  
G54  0    4   TABLE {V(0,51)} ((-100,100)(0,0)(1,1n))  
R60 0    60   100MEG  
H67 0    69   V67 1
V67 60   59   0V
C60 561  60   200P
R59 59   2    8.19
L59 59   2    10.0N
* Shoot-through adjustment
VC60 56 0 0V
RC60 56 561 1m
H60 58 0 VC60 56
G60P 0 3 TABLE { V(58, 0) } ((-1,-1u)(0,0)(25,10.0m)(40,0))
G60N 4 0 TABLE { V(0, 58) } ((-1,-1u)(0,0)(25,10.0m)(40,0))
* Source Output
E67 67   0    TABLE { V(69, 0) } ( (-1.3,-1.3)(0,0)(1,2.00) )
G63 0    63   POLY(1) 3 4 22.9 -1.86 54.4M
R63 0    63   1 TC 4.29M 11.7U
E61 61   65   VALUE {V(67,0)*V(63,0)}
V63 65   3    100U
G61 61   60   TABLE { V(61, 60) } ((-20.0M,-130)(-15.0M,-65.0)(-10.0M,-13.0)(0,0)(10,1N))
* Sink Output
E68 68   0    TABLE { V(69, 0) }  ( (-1,-2.00)(0,0)(1.5,1.5) )
G64 0    64   POLY(1) 3 4 22.9 -1.86 54.4M
R64 0    64   1 TC 4.29M 11.7U
E62 62   66   VALUE {V(68,0)*V(64,0)}
V64 66   4    100U
G62 60   62   TABLE { V(60, 62) } ((-20.0M,-150)(-15.0M,-75.0)(-10.0M,-15.0)(0,0)(10,1N))
* Bias Current
G55 0    55   TABLE { V(3, 4) } ((0,0)(4.5,530U)(10.0,770U)(14.0,910U)(18.0,1.38M))
G56 3    4    55 0 1
R55 55   0    1 TC  -1.53M -407N
G57 0    57   TABLE { V(3, 4) } ((0,0)(4.5,70.0U)(10.0,80.0U)(14.0,90.0U)(18.0,120U))
G58 3    4    57 0 1
R57 57   0    1 TC  -1.53M -407N
S59 55   0    1 0 SS59
* Models
.MODEL SS59 VSWITCH Roff=1m Ron=100Meg Voff=1.2V Von=1.5V
.MODEL SS31 VSWITCH Roff=100MEG Ron=800 Voff=0.2V Von=0.1V
.ENDS TC4427_I2D_A
